### ISSUE TITLE
refine' ignores introduced variables

### ISSUE THREAD

**Issue by semorrison** [leanprover/lean4#1681]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

When `refine'` sees a lambda with a hole in the body, it creates a goal for the entire function, rather than introducing the named variables and creating a goal just for the body.

When body is a `?_` metavariable `refine'` has the correct behaviour.

### Steps to Reproduce

```
example : Nat → Nat := by
  refine' (fun x => _)
  -- goal is still `Nat → Nat`
  sorry

example : Nat → Nat := by
  refine' (fun x => ?_)
  -- goal is now `x : Nat ⊢ Nat`, as expected.
  sorry
```

**Expected behavior:**

Both versions should leave the goal state as `x : Nat ⊢ Nat`, as in Lean3. 

### Versions

version 4.0.0-nightly-2022-09-30, commit 955a251bfc35

**Comment by semorrison** [comment]
I don't want to clutter up this issue, but even when `refine'` apparently behaving as expected when using `?_`, something is still not right:

```
import Lean

open Lean Elab Parser Tactic

syntax (name := logHyp) "log_hyp " (ppSpace location) : tactic

@[tactic logHyp] elab_rules : tactic | `(tactic| log_hyp $loc) => do
  withLocation (expandLocation loc)
    (atLocal := fun h => do logInfo (← h.getDecl).type)
    (atTarget := done)
    (failed := fun _ => throwError "failed")

example (h : 1 = 1) : True := by
  log_hyp at h -- prints `1 = 1`
  trivial

example (h : 1 = 1) : True := by
  revert h
  refine' (fun h => ?_)
  -- Goal view shows `h: 1 = 1`, but
  log_hyp at h -- prints `?m.33410`
  trivial
```
